US04486589
2-(Dichloromethyl)-N-[(4,6-dimethylpyrimidin-2-yl)-aminocarbonyl]benzenesulfonamide
2-(Dichloromethyl)benzenesulfonyl isocyanate, prepared from 10 mmol of sulfonamide as described in the synthesis of Example 1, was treated with acetonitrile and 2-amino-4,6-dimethylpyrimidine (1.23 g). The mixture was stirred at room temperature for 18 hrs, cooled, and filtered to provide 1.08 g of white solid, mp 195°-197° (Dec). 1H nmr δCDCl3/DMSO-d6TMS 10.53 (s), 8.20-7.90 (m, featuring singlet at 8.00), 7.87-7.43 (m), 6.83 (s), 2.43 (s). IR (nujol) featured bands at 1710 and 1600 cm-1. Mass spectrum featured m/e 388.0174 (calc'd for C14H14Cl2N4O3S 388.0163); 150.0627 (calc'd for C7H7N3 150.0667).

reactant | 2-(Dichloromethyl)benzenesulfonyl isocyanate | ClC(C1=C(C=CC=C1)S(=O)(=O)N=C=O)Cl | C8H5Cl2NO3S
reactant | 2-amino-4,6-dimethylpyrimidine | 1.23 g | NC1=NC(=CC(=N1)C)C | C6H9N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(Dichloromethyl)-N-[(4,6-dimethylpyrimidin-2-yl)-aminocarbonyl]benzenesulfonamide | 1.08 g | ClC(C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)C)C)Cl | C14H14Cl2N4O3S
